US07119122B2
c) 4-Chloro-2-(3-dimethylaminomethyl-2-ethylphenoxy)benzonitrile fumarate
4-Chloro-2-fluorobenzonitrile (0.82 g, 5.27 mmol), 3-dimethylaminomethyl-2-ethylphenol hydrobromide (1.37 g, 5.27 mmol) and cesium carbonate (3.43 g, 10.5 mmol) were heated with stirring in dry DMF (8 mL) at 50° C. for 4 h. The reaction mixture was cooled, poured into 0.1N sodium hydroxide solution and extracted with diethyl ether. The ether layer was separated, washed with 1N sodium hydroxide solution (2×), water (3×), brine (1×), and dried over MgSO4. After filtration, the solvent was removed in vacuo to give a yellow oil (1.86 g), which was purified by chromatography to yield 4-chloro-2-(3-dimethylaminomethyl-2-ethylphenoxy)benzonitrile (1.29 g, 78%) as a pale yellow oil. A small portion (98 mg) was converted into the fumarate salt (80 mg, 60%).

reactant | 4-Chloro-2-fluorobenzonitrile | 5.27 mmol, 0.82 g | ClC1=CC(=C(C#N)C=C1)F | C7H3ClFN
reactant | 3-dimethylaminomethyl-2-ethylphenol hydrobromide | 5.27 mmol, 1.37 g | Br.CN(C)CC=1C(=C(C=CC1)O)CC
reactant | cesium carbonate | 10.5 mmol, 3.43 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium hydroxide | 0.1N | [OH-].[Na+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 4-Chloro-2-(3-dimethylaminomethyl-2-ethylphenoxy)benzonitrile fumarate | 1.86 g | C(\C=C\C(=O)O)(=O)O.ClC1=CC(=C(C#N)C=C1)OC1=C(C(=CC=C1)CN(C)C)CC | InChI=1S/C18H19ClN2O.C4H4O4/c1-4-16-14(12-21(2)3)6-5-7-17(16)22-18-10-15(19)9-8-13(18)11-20;5-3(6)1-2-4(7)8/h5-10H,4,12H2,1-3H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
